US07608631B2
Preparation of 2-(4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-phenyl)-4-methyl-thiazole
96 mg of 4-(4-methyl-thiazol-2-yl)-phenol, 212 mg of methanesulfonic acid 3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propyl ester and 207 mg of potassium carbonate are stirred for 24 hours at 50° C. in 3 ml of dimethylformamide. The reaction mixture is poured onto water and extracted with ethyl acetate. Concentration of the organic phase and purification over silica gel yield the title compound (compound 1.23).

reactant | 4-(4-methyl-thiazol-2-yl)-phenol | 96 mg | CC=1N=C(SC1)C1=CC=C(C=C1)O | C10H9NOS
reactant | methanesulfonic acid 3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propyl ester | 212 mg | ClC1=C(OCCCOS(=O)(=O)C)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C13H14Cl4O5S
reactant | potassium carbonate | 207 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 2-(4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-phenyl)-4-methyl-thiazole | ClC1=C(OCCCOC2=CC=C(C=C2)C=2SC=C(N2)C)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C22H19Cl4NO3S
